### PR TITLE
[Merged by Bors] - feat: port Analysis.NormedSpace.Star.Basic

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Star/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,326 @@
...
+
+theorem norm_self_mul_star {x : E} : ‖x * x⋆‖ = ‖x‖ * ‖x‖ := by
+  nth_rw 1 [← star_star x]
+  simp only [norm_star_mul_self, norm_star]
+#align cstar_ring.norm_self_mul_star CstarRing.norm_self_mul_star
+
+theorem norm_star_mul_self' {x : E} : ‖x⋆ * x‖ = ‖x⋆‖ * ‖x‖ := by rw [norm_star_mul_self, norm_star]
+#align cstar_ring.norm_star_mul_self' CstarRing.norm_star_mul_self'
+
+theorem nnnorm_self_mul_star {x : E} : ‖x * star x‖₊ = ‖x‖₊ * ‖x‖₊ :=
```
Comment (dupuisf) [inline Mathlib/Analysis/NormedSpace/Star/Basic.lean:129]:
```suggestion
theorem nnnorm_self_mul_star {x : E} : ‖x * x⋆‖₊ = ‖x‖₊ * ‖x‖₊ :=
```

File: Mathlib/Analysis/NormedSpace/Star/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,326 @@
...
+#align cstar_ring.star_mul_self_ne_zero_iff CstarRing.star_mul_self_ne_zero_iff
+
+@[simp]
+theorem mul_star_self_eq_zero_iff (x : E) : x * star x = 0 ↔ x = 0 := by
+  simpa only [star_eq_zero, star_star] using @star_mul_self_eq_zero_iff _ _ _ _ (star x)
+#align cstar_ring.mul_star_self_eq_zero_iff CstarRing.mul_star_self_eq_zero_iff
+
+theorem mul_star_self_ne_zero_iff (x : E) : x * star x ≠ 0 ↔ x ≠ 0 := by
+  simp only [Ne.def, mul_star_self_eq_zero_iff]
+#align cstar_ring.mul_star_self_ne_zero_iff CstarRing.mul_star_self_ne_zero_iff
```
Comment (dupuisf) [inline Mathlib/Analysis/NormedSpace/Star/Basic.lean:154]:
```suggestion
@[simp]
theorem star_mul_self_eq_zero_iff (x : E) : x⋆ * x = 0 ↔ x = 0 := by
  rw [← norm_eq_zero, norm_star_mul_self]
  exact mul_self_eq_zero.trans norm_eq_zero
#align cstar_ring.star_mul_self_eq_zero_iff CstarRing.star_mul_self_eq_zero_iff

theorem star_mul_self_ne_zero_iff (x : E) : x⋆ * x ≠ 0 ↔ x ≠ 0 := by
  simp only [Ne.def, star_mul_self_eq_zero_iff]
#align cstar_ring.star_mul_self_ne_zero_iff CstarRing.star_mul_self_ne_zero_iff

@[simp]
theorem mul_star_self_eq_zero_iff (x : E) : x * x⋆ = 0 ↔ x = 0 := by
  simpa only [star_eq_zero, star_star] using @star_mul_self_eq_zero_iff _ _ _ _ (star x)
#align cstar_ring.mul_star_self_eq_zero_iff CstarRing.mul_star_self_eq_zero_iff

theorem mul_star_self_ne_zero_iff (x : E) : x * x⋆ ≠ 0 ↔ x ≠ 0 := by
  simp only [Ne.def, mul_star_self_eq_zero_iff]
#align cstar_ring.mul_star_self_ne_zero_iff CstarRing.mul_star_self_ne_zero_iff
```

**Review by dupuisf — APPROVED** [review]

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
